* Schematics Netlist *



D_D1         vin vout D1N4002 
R_R1         0 vout  1k  
V_V2         vin 0  
+SIN 0 10 50 0 0 0
R_R2         0 $N_0001  1k  
V_V3         $N_0002 0  
+SIN 0 10 50 0 0 0
V_V4         $N_0003 $N_0002 5
D_D2         $N_0003 $N_0001 D1N4002 
V_V7         $N_0004 0  
+SIN 0 10 50 0 0 0
D_D5         0 $N_0005 D1N4002 
R_R4         $N_0005 $N_0004  1k  
R_R5         $N_0007 $N_0006  1k  
V_V10         $N_0006 0  
+SIN 0 10 50 0 0 0
V_V11         0 $N_0008 5V
D_D6         $N_0008 $N_0007 D1N4002 
R_R7         $N_0010 $N_0009  1k  
V_V14         $N_0009 0  
+SIN 0 10 50 0 0 0
D_D8         $N_0011 $N_0010 D1N4002 
V_V15         $N_0011 0 5V
R_R8         $N_0013 $N_0012  1k  
V_V17         $N_0012 0  
+SIN 0 10 50 0 0 0
D_D10         $N_0014 $N_0013 D1N4002 
V_V18         0 $N_0014 5V
D_D11         $N_0015 0 D1N4002 
R_R11         $N_0017 $N_0016  1k  
V_V25         $N_0016 0  
+SIN 0 10 50 0 0 0
D_D14         $N_0018 $N_0017 D1N4002 
D_D15         $N_0019 0 D1N4002 
V_V19         $N_0013 $N_0015 5V
V_V29         $N_0018 0 5V
R_R13         $N_0021 $N_0020  1k  
D_D18         $N_0022 $N_0021 D1N4002 
V_V34         $N_0022 0 5V
V_V28         $N_0019 $N_0017 3V
C_C2         $N_0023 $N_0024  1n  
D_D20         $N_0024 0 D1N4002 
V_V36         $N_0023 0  
+PULSE 10v -10v 0 0 0 0.5 1
V_V35         $N_0025 0  
+PULSE 10v -10v 0 0 0 0.5 1
V_V37         $N_0026 0 5
C_C1         $N_0025 $N_0027  1u  
D_D17         $N_0027 $N_0026 D1N4002 
C_C3         $N_0028 $N_0029  1n  
V_V38         $N_0028 0  
+PULSE 10v -10v 0 0 0 0.5 1
D_D22         0 $N_0029 D1N4002 
V_V39         $N_0030 0  
+PULSE 10v -10v 0 0 0 0.5 1
V_V40         $N_0031 0 5
C_C4         $N_0030 $N_0032  1u  
V_V41         $N_0033 0  
+PULSE 10v -10v 0 0 0 0.5 1
C_C5         $N_0033 $N_0034  1u  
V_V44         0 $N_0035 5
D_D24         $N_0034 $N_0035 D1N4002 
D_D25         $N_0031 $N_0032 D1N4002 
V_V45         $N_0036 0  
+PULSE 10v -10v 0 0 0 0.5 1
C_C6         $N_0036 $N_0037  1u  
V_V46         0 $N_0038 5
D_D27         $N_0038 $N_0037 D1N4002 
V_V33         $N_0020 0  
+SIN 0 10 50 0 0 0
V_V51         0 $N_0039 2V
D_D29         $N_0039 $N_0021 D1N4002 
