* Schematics Netlist *



R_R1         $N_0002 $N_0001  1k  
R_R2         $N_0003 $N_0001  1k  
R_R3         $N_0005 $N_0004  1k  
E_U1         $N_0004 0 VALUE {LIMIT(V($N_0001,$N_0005)*1E6,-15V,+15V)}
R_R4         0 $N_0005  1k  
V_V1         0 $N_0002  
+SIN 0 10 50 0 0 0
V_V2         0 $N_0003  
+SIN 0 5 50 0 0 0
R_R7         $N_0007 $N_0006  1k  
R_R6         $N_0008 $N_0007  1k  
R_R5         $N_0009 $N_0007  1k  
E_U2         $N_0006 0 VALUE {LIMIT(V(0,$N_0007)*1E6,-15V,+15V)}
R_R11         $N_0011 $N_0010  1k  
R_R10         $N_0012 $N_0011  1k  
E_U3         $N_0010 0 VALUE {LIMIT(V($N_0013,$N_0011)*1E6,-15V,+15V)}
R_R9         $N_0014 $N_0013  1k  
R_R13         $N_0013 0  1k  
V_V3         0 $N_0009  
+SIN 0 10 50 0 0 0
V_V4         0 $N_0008  
+SIN 0 5 50 0 0 0
V_V5         0 $N_0014  
+SIN 0 7 50 0 0 0
V_V6         0 $N_0012  
+SIN 0 3 50 0 0 0
E_U5         $N_0016 0 VALUE {LIMIT(V(0,$N_0015)*1E6,-15V,+15V)}
R_R20         $N_0017 $N_0015  1k  
R_R18         $N_0015 $N_0016  2k  
V_V9         0 $N_0017  
+SIN 0 1 50 0 0 0
R_R21         $N_0019 $N_0018  3k  
E_U4         $N_0018 0 VALUE {LIMIT(V($N_0020,$N_0019)*1E6,-25V,+25V)}
R_R22         0 $N_0019  1k  
E_U6         $N_0022 0 VALUE {LIMIT(V(0,$N_0021)*1E6,-15V,+15V)}
R_R23         $N_0023 $N_0021  1k  
E_U7         $N_0025 0 VALUE {LIMIT(V(0,$N_0024)*1E6,-15V,+15V)}
R_R25         $N_0026 $N_0024  1k  
R_R27         $N_0022 $N_0024  1k  
V_V11         0 $N_0023  
+SIN 0 2 50 0 0 0
V_V7         0 $N_0020  
+SIN 0 1 50 0 0 0
R_R24         $N_0021 $N_0022  1k  
R_R26         $N_0024 $N_0025  1k  
E_U8         $N_0028 0 VALUE {LIMIT(V(0,$N_0027)*1E6,-15V,+15V)}
R_R28         $N_0029 $N_0027  1k  
R_R29         $N_0027 $N_0028  1k  
V_V12         0 $N_0026  
+SIN 0 3 50 0 0 0
R_R31         0 $N_0030  1k  
R_R33         $N_0028 $N_0031  1k  
E_U9         $N_0032 0 VALUE {LIMIT(V($N_0031,$N_0030)*1E6,-25V,+25V)}
R_R32         $N_0033 $N_0031  1k  
R_R30         $N_0030 $N_0032  1k  
V_V13         0 $N_0029  
+SIN 0 3 50 0 0 0
V_V14         0 $N_0033  
+SIN 0 5 50 0 0 0
E_U10         $N_0035 0 VALUE {LIMIT(V(0,$N_0034)*1E6,-15V,+15V)}
R_R35         $N_0034 $N_0035  20k  
E_U11         $N_0037 0 VALUE {LIMIT(V(0,$N_0036)*1E6,-15V,+15V)}
V_V16         0 $N_0038  
+SIN 0 1 50 0 0 0
C_C1         $N_0038 $N_0034  1n  
R_R37         $N_0039 $N_0036  1k  
C_C3         $N_0036 $N_0037  0.00001  
V_V20         0 $N_0039  
+SIN 0 4 50 0 0 0
